US05231101
8-Methylsulfonyl-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (Compound No. 4)
To 1.35 g of 8-methylsulfonyl-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol, 24 ml of a mixed solution of conc. H2SO4 and CF3SO3H (2:1) were added. The resultant mixture was stirred at 50° C. for 5 hours. After the reaction, the reaction mixture was poured into ice water, basified with a 20% sodium hydroxide solution and then extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous MgSO4 and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on an alumina column, whereby 0.95 g of 8-methylsulfonyl-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo]5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 74%).

reactant | 8-methylsulfonyl-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | 1.35 g | CS(=O)(=O)C=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CCN(CC2)C)C1 | C21H26N2O3S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | CF3SO3H | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | 8-Methylsulfonyl-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | yield: 74% | CS(=O)(=O)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C21H24N2O2S
